US05753652
A) 1-[2(S)-Hydroxy-3(S)-(N-(quinoline-2-carbonyl)-(L)-asparaginyl)amino-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine
At 5° C., 940 mg (3.27 mmol) of quinoline-2-carbonyl-(L)-asparagine (in the form of the hydrochloride salt) are dissolved in 35 ml of THF, and 736 mg (3.57 mmol) of DCC are added. After 10 min, 482 mg (3.57 mmol) of HOBT, 0.82 ml (7.44 mmol) of NMM and 1.165 g (2.98 mmol) of 1-[2(S)-hydroxy-3(S)-amino-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine are added and the mixture is stirred at RT for 18 h. The reaction mixture is filtered and the filtrate is concentrated by evaporation. The residue is partitioned between 3 portions of ethyl acetate, saturated NaHCO3 solution, water and brine, and the organic phases, which have been dried with Na2SO4, are concentrated by evaporation and subjected to column chromatography (SiO2, ethyl acetate) to yield the title compound: TLC Rf (O)=0.16; tRet (V)=16.5 min; FAB-MS (M+H)+ =661.

reactant | quinoline-2-carbonyl-(L)-asparagine | 3.27 mmol, 940 mg | N1=C(C=CC2=CC=CC=C12)C(=O)N[C@@H](CC(N)=O)C(=O)O | C14H13N3O4
reactant | DCC | 3.57 mmol, 736 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 3.57 mmol, 482 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 7.44 mmol, 0.82 ml | CN1CCOCC1 | C5H11NO
reactant | 1-[2(S)-hydroxy-3(S)-amino-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine | 2.98 mmol, 1.165 g | O[C@@H](CN(NC(=O)OC(C)(C)C)CC1CCCCC1)[C@H](CC1=CC=CC=C1)N | C22H37N3O3
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 1-[2(S)-Hydroxy-3(S)-(N-(quinoline-2-carbonyl)-(L)-asparaginyl)amino-4-phenyl-butyl]-1-[cyclohexylmethyl]-2-[tert-butoxycarbonyl]-hydrazine | O[C@@H](CN(NC(=O)OC(C)(C)C)CC1CCCCC1)[C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C1=NC2=CC=CC=C2C=C1)CC(N)=O)=O | C36H48N6O6
